US08349880B2
Methyl 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (1.50 g, 3.81 mmol, from preparation C) and 6-chloro-2-(4-(2,2,2-trifluoroethoxy)phenyl)hexanoic acid (1.30 g, 4.00 mmol, from preparation AW) were coupled [N-methylmorpholine (2.10 mL, 19.1 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.598 mL, 19.1 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (2.11 g, 3.92 mmol, quantitative yield) was obtained as a brown foamy solid. The crude product was used in the next step without purification. LC-MS (M+H)+ 538.4.

reactant | Methyl 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 3.81 mmol, 1.50 g | I.FC=1C=C(C=CC1N1N=CN=C1C)NC(=N)SC
reactant | 6-chloro-2-(4-(2,2,2-trifluoroethoxy)phenyl)hexanoic acid | 4.00 mmol, 1.30 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC(F)(F)F | C14H16ClF3O3
reactant | N-methylmorpholine | 19.1 mmol, 2.10 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 19.1 mmol, 0.598 mL | NN | H4N2
product | 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 3.92 mmol, 2.11 g, quantitative yield | ClCCCCC(C1=CC=C(C=C1)OCC(F)(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=CN=C1C)F | C24H24ClF4N7O
